US04849529
4-methyl-1,3-dioxolan-2-one and propylene oxide were reacted in a similar manner to the procedure of Example 2, whereby 2,7-dimethyl-1,4,6,9-tetraoxaspiro[4.4]nonane was obtained in yield of about 70%.

reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | 4-methyl-1,3-dioxolan-2-one | CC1OC(OC1)=O | C4H6O3
product | 2,7-dimethyl-1,4,6,9-tetraoxaspiro[4.4]nonane | yield of about 70% | CC1OC2(OC1)OC(CO2)C | C7H12O4
